US08034256B2
Under an argon gas atmosphere, a mixture of 59.0 g (177 mmol) of 4-bromo-1-(2-naphthyl)naphthalene, 600 mL of dehydrated toluene and 600 mL of dehydrated diethylether was cooled down to −10 degrees C., and added with 134 ml (212 mmol) of hexane solution of 1.58M n-butyllithium in drops while being stirred. Then, the reaction mixture was stirred for four hours at −10 degree C. The reaction mixture was further cooled down to −60 degrees C., and added with 99.9 g (531 mmol) of triisopropyl borate in drops. The reaction mixture was subsequently warmed up to room temperature, and stirred for 17 hours at room temperature. The reaction mixture was further added with solution of hydrochloric acid to be stirred for one night at room temperature. After the reaction, the reaction mixture experienced liquid separation, organic phase thereof was cleansed with water, and the solvent was distilled away under reduced pressure until the reaction mixture became slurry. By adding residue with hexane, filtering the solid and recrystallizing the residue by THF and hexane, 32.5 g of 1-(2-naphthyl)naphthalene-4-boronic acid was obtained at an yield of 62%.

reactant | 4-bromo-1-(2-naphthyl)naphthalene | 177 mmol, 59.0 g | BrC1=CC=C(C2=CC=CC=C12)C1=CC2=CC=CC=C2C=C1 | C20H13Br
reactant | hexane | 212 mmol, 134 ml | CCCCCC | C6H14
reactant | n-butyllithium | 1.58M | C(CCC)[Li]
reactant | triisopropyl borate | 531 mmol, 99.9 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | Cl | ClH
solvent | diethylether | 600 mL | C(C)OCC | C4H10O
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-naphthyl)naphthalene-4-boronic acid | 32.5 g, yield of 62% | C1=C(C=CC2=CC=CC=C12)C1=CC=C(C2=CC=CC=C12)B(O)O | C20H15BO2
